US06350750B1
Part B: A mixture of 17.0 g (71 mmol) of 2-methyl-8-bromo-3,1-benzoxazin4-one and 84.8 g (1.1 mol) of ammonium acetate was heated to 140° C. while stirring for 2 hours. After cooling to room temperature 250 ml of water was added under intensive stirring to the mixture. The resulting precipitate was collected by filtration and washed three times with 50 ml of water. The product was dried in vacuo, suspended in 150 ml of diisopropylether, stirred for 30 minutes and collected by filtration. The product was washed three times with diisopropylether and dried in vacuo resulting in a total of 14.2 g of 2-methyl-4-hydroxy-8-bromo-quinazoline (84% yield).

reactant | 2-methyl-8-bromo-3,1-benzoxazin4-one | 71 mmol, 17.0 g | CC1=NC2=C(C(O1)=O)C=CC=C2Br | C9H6BrNO2
reactant | ammonium acetate | 1.1 mol, 84.8 g | C(C)(=O)[O-].[NH4+]
solvent | water | 250 ml | O | H2O
product | 2-methyl-4-hydroxy-8-bromo-quinazoline | 14.2 g, 84% yield | CC1=NC2=C(C=CC=C2C(=N1)O)Br | C9H7BrN2O
